US05436229
A 0° C. slurry of 50.0 g (300 mmole) of DL-3-amino-3phenyl propionic acid in 300 mL of 1N aq NaOH (300 mmole) was treated simultaneously with 48.0 mL (340 mmole) of benzyl chloroformate and 300 mL of 1N aq NaOH (300 mole). The reaction was stirred at ambient temperature for 18 h at which time the reaction was acidified to pH 2 with conc. aq HCl and extracted with EtOAc (4×200 mL). The combined organic fractions were dried over Na2SO4 and evaporated in vacuo to give 73.4 g (250 mmol; 82%) of N-Cbz-3-amino-3-phenyl propionic acid as an off white solid.

reactant | DL-3-amino-3phenyl propionic acid | 300 mmole, 50.0 g | C1=CC=C(C=C1)C(CC(=O)O)N | C9H11NO2
reactant | NaOH | 300 mmole, 1N, 300 mL | [OH-].[Na+]
reactant | benzyl chloroformate | 340 mmole, 48.0 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | NaOH | 300 mole, 1N, 300 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
product | N-Cbz-3-amino-3-phenyl propionic acid | 250 mmol, 73.4 g, 82% | C(=O)(OCC1=CC=CC=C1)NC(CC(=O)O)C1=CC=CC=C1 | C17H17NO4
